US08790691B2
TBAF (1.0 M in THF, 0.5 mL, 0.50 mmol, 1.2 equiv) was added in one portion to a dry THF (100 μL) solution of 3-(tert-butyldimethylsilyloxy)-N,N-dimethyl-2-((9Z,12Z)-octadeca-9,12-dienyloxy)propan-1-amine (0.2 g, 0.42 mmol, 1.0 equiv) and the mixture was stirred at room temperature for 2 hours. The mixture was concentrated and the residue was partitioned between EtOAc (15 mL) and aqueous saturated ammonium chloride solution (10 mL). The layers were separated and the aqueous layer was extracted with 2 additional portions of EtOAc (10 mL). The combined extracts were dried (MgSO4), filtered, and concentrated to give crude 3-(dimethylamino)-2-((9Z,12Z)-octadeca-9,12-dienyloxy)propan-1-ol, a thick, beige oil, which was used without further purification.

reactant | TBAF | 0.50 mmol, 1.0 M, 0.5 mL, 1.2 equiv | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 3-(tert-butyldimethylsilyloxy)-N,N-dimethyl-2-((9Z,12Z)-octadeca-9,12-dienyloxy)propan-1-amine | 0.42 mmol, 0.2 g, 1.0 equiv | [Si](C)(C)(C(C)(C)C)OCC(CN(C)C)OCCCCCCCC\C=C/C\C=C/CCCCC | C29H59NO2Si
solvent | THF | 100 μL | C1CCOC1 | C4H8O
product | 3-(dimethylamino)-2-((9Z,12Z)-octadeca-9,12-dienyloxy)propan-1-ol | CN(CC(CO)OCCCCCCCC\C=C/C\C=C/CCCCC)C | C23H45NO2
